US07635715B2
Step D: Preparation of Ethyl-6,7-difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate
P2O5 (26.9 g, 189 mmol) was added to concentrated H2SO4 (50.5 mL) at 0° C. Diethyl 2-(2-(3,4-difluorophenyl)-2-methylpropanoyl)malonate (32.42 g, 94.7 mmol) was added at 0° C., and the reaction mixture was allowed to warm to ambient temperature and stirred for 16 hours. The resulting reaction mixture was then poured into ice, diluted with 400 mL of EtOAc, added to a separatory funnel, partitioned with water, washed 3 times with 75 mL of water, separated, dried over Na2SO4, and concentrated in vacuo to give the title compound as a beige yellow amorphous solid which was used without further purification. MS (m/z)=297 (M+H)+.

reactant | P2O5 | 189 mmol, 26.9 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | H2SO4 | 50.5 mL | OS(=O)(=O)O | H2O4S
reactant | Diethyl 2-(2-(3,4-difluorophenyl)-2-methylpropanoyl)malonate | 94.7 mmol, 32.42 g | FC=1C=C(C=CC1F)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H20F2O5
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
product | Ethyl-6,7-difluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | C(C)OC(=O)C=1C(C(C2=CC(=C(C=C2C1O)F)F)(C)C)=O | C15H14F2O4
